### ISSUE TITLE
Even though Canonical found a proof, VS Code still flags "unsolved goals" in red

### ISSUE THREAD

**Issue by euprunin** [chasenorman/CanonicalLean#8]
Compare the following two "proof searches":

```
example : 2 = 1 + 1 := by
  exact?
  done
-- Tactic state:
-- No goals
-- Suggestions:
-- Try this: exact rfl
```

```
example : 2 = 1 + 1 := by
  canonical
  done
-- Tactic state:
-- ⊢ 2 = 1 + 1
-- Suggestions:
-- Try this: exact Eq.refl Nat.zero.succ.succ
-- Errors:
-- unsolved goals
-- ⊢ 2 = 1 + 1
```

I think Canonical should behave like `exact?` in this situation (no errors, tactic state "no goals", and a suggestion).

**Comment by chasenorman** [comment]
I have decided to have Canonical close the goal with `sorry` by default on the `4.19.0` version, to avoid the red underline. I would like to emphasize that Canonical is intended to produce concrete proof terms, potentially after long periods of searching. The tactic `canonical` should not stay in your code so as be repeatedly invoked with each compilation.
